* source WORKSHOP
V_Vss         VSS 0 5Vdc
R_Rvd1-3         0 N70977  1k  
X_UucA         N00659 N00983 VOP -VPS N00983 TL074/301/TI
R_Rvd2-4         0 N71031  1k  
Q_Qc2-1         N60508 N59640 0 QBC337/PLP 
R_RPI2-1         N48675 N49515  15k  
R_Rc1-1         N52007 N59563  10k  
R_R-12th         N02016 N01825  100k  
R_Rsense1         MES1-1 MES1-2  0.22  
C_CPI2-1         N49515 N48635  1u  
R_Ruc2         N00659 VCC  1k  
C_Cc2-1         N51953 N59640  10n  
R_Rcmp1         N52007 VSS  1k  
V_Vcc         VCC 0 17Vdc
R_Rvd1-4         0 N70950  1k  
R_Rmes2-3         N71871 N78770  1k  
Q_Qc2-2         N64022 N68050 0 QBC337/PLP 
R_Rc1-3         N60481 VS  1k  
R_R-12         N02016 VCC  1k  
X_UmesB1-1A         N70977 N73862 VOP -VOP N73862 TL074/301/TI
R_Rsense2         MES2-1 MES2-2  0.22  
C_CPI2-2         0 N48950  1u  
R_Ruc1         0 N00659  1.5k  
C_Cc2-2         N68050 N68135  10n  
R_Rcmp2         N51953 VSS  1k  
X_Uvf1A         N12797 0 VOP -VPS VFPULSE TL074/301/TI
C_Cvf         N09559 N10611  50n  
R_Rgend         N54925 N54956  12k  
V_Vs         VS 0 25Vdc
R_Rmes1-1         N73862 N78598  1k  
R_Rmes2-4         0 N78770  100k  
L_Lmotor1         N65674 MES1-1  3.44m  
X_Ucmp1         N48595 N56321 VOP -VOP N52007 0 LM311
R_Rmotor1         N62892 N65674  3  
X_D1-1         N62892 VS D120NQ045 
X_UrefB1A         VCLK1 N17443 VOP -VPS N17443 TL074/301/TI
D_Dvf         N10972 VFPULSE D1N4148 
X_Umes1A         N78632 N78598 VOP -VOP VIMES1 TL074/301/TI
R_Rgenc         N54987 N54925  10k  
R_Rmes1-2         N78598 VIMES1  100k  
L_Lmotor2         N65774 MES2-1  3.48m  
X_Uvf2A         0 N09559 VOP -VPS N10611 TL074/301/TI
R_Rc1-4         N63986 VS  1k  
X_D1-3         0 N62892 D120NQ045 
X_Ugen1A         N54987 0 VOP -VOP N54925 TL074/301/TI
R_Rgenf         N54987 N55027  4k  
X_UPI1A         N48791 N48733 VOP -VOP N48595 TL074/301/TI
R_Rmes1-3         N73909 N78632  1k  
X_UrefB2A         VCLK2 N16415 VOP -VPS N16415 TL074/301/TI
X_Rref1A         VSS N16464 N17443 VSS VIREFA N16464 $G_DPWR $G_DGND 7474
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_RPI1-1         N48733 N48568  15k  
X_Q1-1         VS N60481 N62892 TIP102
R_Rc1-2         N67992 N68108  10k  
X_Ucmp2         N48635 N56321 VOP -VOP N51953 0 LM311
V_VIref2         VIREF2 0  
+PULSE -2.5V 2.5V 2.375m 0 0 1.816m 3.632m
X_UmesB1-2A         N70950 N73909 VOP -VOP N73909 TL074/301/TI
X_D1-4         0 MES1-2 D120NQ045 
C_Cgen         N54956 N55027  10n  
X_Ugen2A         0 N54956 VOP -VOP N55027 TL074/301/TI
X_U12         VCC VOP 0 LM7812C
R_Rmes1-4         0 N78632  100k  
C_Chpf         N55027 N56321  1u  
C_C-12control         0 N02575  1n  
R_RPI1-2         VIREF1 N48733  10k  
R_Rc2-1         N51953 N59640  10k  
X_D1-2         MES1-2 VS D120NQ045 
X_Q1-2         VS N63986 MES1-2 TIP102
X_UPI2A         N48884 N48675 VOP -VOP N48635 TL074/301/TI
R_Rvf1         N00983 N09559  15k  
X_Not1         N52007 N68108  $G_DPWR $G_DGND INV
X_UmesB2-2A         N71031 N71871 VOP -VOP N71871 TL074/301/TI
R_Rvd2-1         N71004 MES2-2  10k  
R_Rhpf         0 N56321  100k  
C_C-12out1         N02776 N02983  2u  
R_RPI1-4         VIMES1 N48791  10k  
X_Uref2A         VSS N16523 N16415 VSS VIREFB N16523 $G_DPWR $G_DGND 7474
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_Rc2-3         N60508 VS  1k  
X_D2-3         0 N63004 D120NQ045 
X_U-12         0 N01825 N02776 VCC N02575 N01825 N02016 VCC 555B
X_Q1-3         0 N60481 N62892 TIP107
X_UvfBufferA         VFPULSE N14588 VOP -VPS N14588 TL074/301/TI
X_Q2-1         VS N60508 N63004 TIP102
R_Rvf3         N12797 VFPULSE  10k  
R_Rvd2-2         N71031 MES2-1  10k  
V_VIref1         VIREF1 0  
+PULSE -2.5V 2.5V 1.467m 0 0 1.816m 3.632m
C_C-12out2         0 -VPS  2u  
R_RPI1-3         N48857 N48791  15k  
D_D-12out1         N02983 0 D1N4148 
X_Not2         N51953 N68135  $G_DPWR $G_DGND INV
R_Rmotor2         N63004 N65774  3  
X_D2-1         N63004 VS D120NQ045 
X_UmesB2-1A         N71004 N71824 VOP -VOP N71824 TL074/301/TI
X_Q1-4         0 N63986 MES1-2 TIP107
X_Q2-2         VS N64022 MES2-2 TIP102
R_Rvf4         N10972 N09559  2.2k  
R_Rmes2-1         N71824 N78701  1k  
C_C-12th         0 N01825  1n  
R_RPI2-3         N48950 N48884  15k  
V_-Vop         -VOP 0 -12Vdc
D_D-12out2         -VPS N02983 D1N4148 
R_Rc2-4         N64022 VS  1k  
X_D2-2         MES2-2 VS D120NQ045 
Q_Qc1-1         N60481 N59563 0 QBC337/PLP 
R_Rvf2         N10611 N12797  5k  
X_Q2-4         0 N64022 MES2-2 TIP107
R_Rvd1-1         N70977 MES1-2  10k  
R_Rmes2-2         N78701 VIMES2  100k  
X_UclkA         VSS VCLK2 N14588 VSS VCLK1 VCLK2 $G_DPWR $G_DGND 7474 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Umes2A         N78770 N78701 VOP -VOP VIMES2 TL074/301/TI
R_RPI2-4         VIMES2 N48884  10k  
R_Rc2-2         N68050 N68135  10k  
C_CPI1-1         N48568 N48595  1u  
X_D2-4         0 MES2-2 D120NQ045 
C_Cc1-1         N52007 N59563  10n  
Q_Qc1-2         N63986 N67992 0 QBC337/PLP 
R_Rvd1-2         N70950 MES1-1  10k  
R_Rvd2-3         0 N71004  1k  
X_Q2-3         0 N60508 N63004 TIP107
R_RPI2-2         VIREF2 N48675  10k  
R_R-12out         0 -VPS  5k  
C_CPI1-2         0 N48857  1u  
C_Cc1-2         N67992 N68108  10n  
